US09359305B2
Compound number 258 (i.e., 6-chloro-5-(3,4-dichlorophenyl)-2-trifluoromethylbenzimidazole) was prepared as follows. A 100-mL round-bottom flask was purged and maintained with an inert atmosphere of nitrogen. 5,6-dichloro-2-(trifluoromethyl)-1H-1,3-benzodiazole (200 mg, 0.78 mmol, 1.00 equiv), 1,4-dioxane (30 mL), (3,4-dichlorophenyl)boronic acid (229 mg, 1.20 mmol, 2.00 equiv), sodium carbonate (191 mg), water (8 mL) and Pd(PPh3)4 (34.7 mg) was placed into the flask. The resulting solution was stirred overnight at 100° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:4). This resulted in 82.4 mg (29%) of 6-chloro-5-(3,4-dichlorophenyl)-2-trifluoromethylbenzimidazole as a white solid.

reactant | 5,6-dichloro-2-(trifluoromethyl)-1H-1,3-benzodiazole | 0.78 mmol, 200 mg, 1.00 equiv | ClC1=CC2=C(NC(=N2)C(F)(F)F)C=C1Cl | C8H3Cl2F3N2
reactant | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
reactant | (3,4-dichlorophenyl)boronic acid | 1.20 mmol, 229 mg, 2.00 equiv | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | sodium carbonate | 191 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 34.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 8 mL | O | H2O
product | 6-chloro-5-(3,4-dichlorophenyl)-2-trifluoromethylbenzimidazole | ClC=1C(=CC2=C(N=C(N2)C(F)(F)F)C1)C1=CC(=C(C=C1)Cl)Cl | C14H6Cl3F3N2
